US09278931B2
C) N-{4-[trans-2-aminocyclopropyl]phenyl}-3-(2-oxopiperidin-1-yl)benzamide hydrochloride
A mixed solution of tert-butyl{trans-2-[4-({[3-(2-oxopiperidin-1-yl)phenyl]carbonyl}amino)phenyl]cyclopropyl}-carbamate (53.4 mg) in 4N hydrochloric acid/ethyl acetate solution (2 mL) was stirred at room temperature for 2 hr. The solvent was evaporated under reduced pressure to give the title compound (38.5 mg).

reactant | tert-butyl{trans-2-[4-({[3-(2-oxopiperidin-1-yl)phenyl]carbonyl}amino)phenyl]cyclopropyl}-carbamate | 53.4 mg | C(C)(C)(C)OC(N[C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(=O)C1=CC(=CC=C1)N1C(CCCC1)=O)=O | C26H31N3O4
reactant | hydrochloric acid ethyl acetate | 4N, 2 mL | Cl.C(C)(=O)OCC
product | N-{4-[trans-2-aminocyclopropyl]phenyl}-3-(2-oxopiperidin-1-yl)benzamide hydrochloride | 38.5 mg | Cl.N[C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(C1=CC(=CC=C1)N1C(CCCC1)=O)=O | InChI=1S/C21H23N3O2.ClH/c22-19-13-18(19)14-7-9-16(10-8-14)23-21(26)15-4-3-5-17(12-15)24-11-2-1-6-20(24)25;/h3-5,7-10,12,18-19H,1-2,6,11,13,22H2,(H,23,26);1H/t18-,19+;/m0./s1
